US09120749B2
1-{6-(3,5-Dichloro-4-hydroxyphenyl)-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}ethanone
Following general procedure F, {6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}ethanone (53 mg, 0.120 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (52 mg, 0.180 mmol) to afford the desired product (31 mg, 50%) as a yellow solid: 1H NMR (300 MHz, CD3OD+TFA-d) δ 9.31 (s, 1H), 8.21 (dd; J=8.8, 2.0 Hz, 1H), 8.00 (d, J=8.8 Hz, 1H), 7.73 (s, 1H), 7.69-7.58 (m, 2H), 7.53 (s, 1H), 7.44-7.38 (m, 1H), 7.10 (s, 2H), 3.72-3.63 (m, 2H), 3.46-3.39 (m, 2H), 3.25-3.14 (m, 2H), 3.14-3.04 (m, 2H), 2.82 (s, 3H), 2.19-2.08 (m, 2H), 2.08-1.97 (m, 2H); ESI MS m/z 520[C29H27Cl2N3O2+H]+; HPLC 97.5% (AUC), tR=10.62 min.

reactant | {6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}ethanone | 0.120 mmol, 53 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC(=CC=C1)CCN1CCCC1 | C23H24BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.180 mmol, 52 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 1-{6-(3,5-Dichloro-4-hydroxyphenyl)-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}ethanone | 31 mg, 50% | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC(=CC=C1)CCN1CCCC1 | C29H27Cl2N3O2
